US07495014B2
3-Pyridin-2-yl-5-pyridin-3-yl-benzene-1,2-diamine:
To a solution of 2-nitro-6-pyridin-2-yl-4-pyridin-3-yl-phenylamine (75 mg, 0.26 mmol) in ethyl acetate (20 mL) was added 10% palladium on carbon (50 mg). The resulting suspension was placed in a Parr hydrogenation apparatus under 40 psi hydrogen gas while shaking at ambient temperature for one hour. The catalyst was removed by filtration and the filtrate concentrated in vacuo to afford compound the title compound (50 mg, 0.19 mmol).

reactant | 2-nitro-6-pyridin-2-yl-4-pyridin-3-yl-phenylamine | 0.26 mmol, 75 mg | [N+](=O)([O-])C1=C(C(=CC(=C1)C=1C=NC=CC1)C1=NC=CC=C1)N | C16H12N4O2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 3-Pyridin-2-yl-5-pyridin-3-yl-benzene-1,2-diamine | 0.19 mmol, 50 mg | N1=C(C=CC=C1)C1=C(C(=CC(=C1)C=1C=NC=CC1)N)N | C16H14N4
